US06271225B1
Similar reaction is carried out using N-(4-chloro-2-hydroxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide and potassium carbonate to give 8-chloro-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one.

reactant | N-(4-chloro-2-hydroxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | ClC1=CC(=C(C=C1)NC(=O)C1=C(SC(=C1)C)Br)O | C12H9BrClNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 8-chloro-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | ClC1=CC2=C(NC(C3=C(O2)SC(=C3)C)=O)C=C1 | C12H8ClNO2S
